US07132436B2
4-Bromo-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl}-2,5-difluorobenzenesulfonamide
The title compound was prepared 4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-amine (91 mg) and 4-bromo-2,5-difluorobenzenesulfonyl chloride (79 mg) as described in the synthetic METHOD B to give a white solid (46.9 mg) with purity >90%: MS (neg) m/z 589.5, 591.5, 593.5; HRMS m/z 589.8745 (calc. of monoisotopic mass for C21 H11 Br Cl2 F2N2 O3 S2 gives 589.8740).

reactant | 4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-amine | 91 mg | ClC1=C(C=CC(=C1)OC1=CC=C(C=C1)Cl)C=1N=C(SC1)N | C15H10Cl2N2OS
reactant | 4-bromo-2,5-difluorobenzenesulfonyl chloride | 79 mg | BrC1=CC(=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
product | 4-Bromo-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl}-2,5-difluorobenzenesulfonamide | BrC1=CC(=C(C=C1F)S(=O)(=O)NC=1SC=C(N1)C1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)Cl)F | C21H11BrCl2F2N2O3S2
